US04431813
A solution of 216.2 g of sodium ethylxanthate in 250 ml of dimethylformamide is added dropwise to a solution, heated to 140°-150° C., of 63.8 g of 2-chloroaniline in 150 ml of dimethylformamide in the course of one hour, under a nitrogen atmosphere. During this addition, the internal temperature is kept at 150° C. by removing some of the distillate. The reaction mixture is then subsequently stirred under reflux for about 12 hours, cooled to about 80° C. and stirred into 1.2 l of ice-water. The resulting cloudy solution is acidified and the 2-mercaptobenzothiazole which has precipitated is filtered off. After washing and drying, 79 g (94.6% of theory) of 2-mercaptobenzothiazole of melting point 179°-180° C. are obtained.

reactant | sodium ethylxanthate | 216.2 g | C(C)OC(=S)[S-].[Na+]
reactant | 2-chloroaniline | 63.8 g | ClC1=C(N)C=CC=C1 | C6H6ClN
solvent | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 2-mercaptobenzothiazole | 79 g, 94.6% | SC=1SC2=C(N1)C=CC=C2 | C7H5NS2
